US09260438B2
A solution of 4M hydrogen chloride in 1,4-dioxane (g, 2.353 mmol) was added to a suspension of tofacitinib free base (0.7 g, 2.24 mmol) in N,N-dimethylformamide (3 mL). The clear solution was stirred at 23 to 25° C. (3 hours) without any solid formation. Ethyl acetate (2 mL) was added and the resulting turbid solution was stirred at room temperature (16 hours) resulting in the formation of a white suspension. An additional portion (5 mL) of ethyl acetate was added and stirring was continued at 23 to 25° C. for 7 hours. The white suspension was filtered, washed with ethyl acetate (2×5 mL) and air-dried for 16 hours to yield tofacitinib hydrochloride (860 mg). 1H NMR analysis showed a molar ratio of tofacitinib hydrochloride to N,N-dimethylformamide of approximately 1:0.8 (14.3 wt %). A PXRD taken of this sample is shown in FIG. 4.

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 2.353 mmol | O1CCOCC1 | C4H8O2
reactant | tofacitinib | 2.24 mmol, 0.7 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N | C16H20N6O
reactant | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | tofacitinib hydrochloride | 860 mg | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N.Cl | InChI=1S/C16H20N6O.ClH/c1-11-5-8-22(14(23)3-6-17)9-13(11)21(2)16-12-4-7-18-15(12)19-10-20-16;/h4,7,10-11,13H,3,5,8-9H2,1-2H3,(H,18,19,20);1H/t11-,13+;/m1./s1
